US06797731B2
(±)-3-Benzyloxy-6-(8-hydroxy-1,4-dioxaspiro[4.5]dec-8-yl)-2-cyclohexen-1-one
To a round-bottomed flask was added anhydrous tetrahydrofuran (600 ml) and diisopropylamine (38.1 ml). The stirred solution was cooled to −78° C. and nbutyl lithium (113.4 ml, 2.4 M in cyclohexanes) was added dropwise via syringe in 20 ml portions. The resulting yellow solution was stirred for 35 min at −78° C., then 3-benzyloxy-2-cyclohexen-1-one (50.0 g) was added as a solution in anhydrous tetrahydrofuran (100 ml). The solution was stirred for 1 hr prior to the addition of cyclohexane-1,4-dione monoethylene ketal (38.7 g) as a solution in anhydrous tetrahydrofuran (100 ml). The solution was stirred for 2 hr at −78° C., then allowed to warm slowly to room temperature over 1 hr. Saturated aqueous ammonium chloride (80 ml) was added, followed by dichloromethane (700 ml), and the mixture was stirred until no solids remained. The layers were separated and the aqueous phase extracted with dichloromethane (2×100 ml). The combined organic layers were washed with brine (50 ml), dried over magnesium sulfate, then concentrated in vacuo. Trituration of the resulting solid with methanol afforded the title compound (78.4 g, 88%). m/z (ES+) 359 (M+H+).

reactant | diisopropylamine | 38.1 ml | C(C)(C)NC(C)C | C6H15N
reactant | lithium | 2.4 M, 113.4 ml | [Li] | Li
reactant | 3-benzyloxy-2-cyclohexen-1-one | 50.0 g | C(C1=CC=CC=C1)OC1=CC(CCC1)=O | C13H14O2
reactant | cyclohexane-1,4-dione monoethylene ketal | 38.7 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | ammonium chloride | 80 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 700 ml | ClCCl | CH2Cl2
product | (±)-3-Benzyloxy-6-(8-hydroxy-1,4-dioxaspiro[4.5]dec-8-yl)-2-cyclohexen-1-one | 78.4 g, 88% | C(C1=CC=CC=C1)OC1=CC(C(CC1)C1(CCC2(OCCO2)CC1)O)=O | C21H26O5
